US08119805B2
Stage (ii): tert-Butyl 3-iodopiperidine-1-carboxylate
tert-Butyl 3-(methylsulfonyloxy)piperidine-1-carboxylate (0.54 g, 1.94 mmol) and sodium iodide (0.87 g, 5.8 mmol) were dissolved in acetone (10 ml) and the solution was refluxed under an inert gas for 6 h and then stirred at room temperature for 15 h. After thin layer chromatography control, the reaction mixture was heated in three portions in a microwave oven (CEM Discover): 10 min 100° C. 150 watt, 15 min 150° C. 200 watt, 20 min 100° C. 150 watt. After thin layer chromatography control, the three portions were combined, sodium thiosulfate solution (20 ml, 5 mmol/l) was added, the phases were separated and the aqueous phase was extracted with ethyl acetate (2×20 ml). The combined organic phases were washed with saturated sodium chloride solution (10 ml), dried over sodium sulfate and concentrated in vacuo. The crude product was purified by column chromatography (silica gel) with hexane/diethyl ether (3:1). Yield: 0.14 g (23%)

reactant | tert-Butyl 3-(methylsulfonyloxy)piperidine-1-carboxylate | 1.94 mmol, 0.54 g | CS(=O)(=O)OC1CN(CCC1)C(=O)OC(C)(C)C | C11H21NO5S
reactant | sodium iodide | 5.8 mmol, 0.87 g | [I-].[Na+]
reactant | sodium thiosulfate | 5 mmol/l, 20 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | tert-Butyl 3-iodopiperidine-1-carboxylate | IC1CN(CCC1)C(=O)OC(C)(C)C | C10H18INO2
